US06114391
b) Preparation of 5.6-dimethoxy-2-indanylamine
A solution of 5,6-dimethoxy-2-hydroxyimino-1-indanone (0.27 moles, 6 g) in glacial acetic acid (500 ml) is added with 96% sulfuric acid (3.3 ml) and 10% Pd/C (1.5 g). The mixture is hydrogenated in a Parr apparatus (r.t., 35 psi). When the hydrogen absorption ceases, the catalyst is filtered off through celite, washing with methanol (70 ml). The solution is evaporated to dryness, to obtain a white solid which is dissolved in water, then extracted with ethyl acetate (2×70 ml). The aqueous solution is alkalinized with a 1M sodium hydroxide solution to pH=8-8.5. The product is extracted with methylene chloride (2×70 ml). The organic solution is dried over sodium sulfate and evaporated under vacuum to obtain the solid product. Yield: 4.6 g (88.5%)

reactant | 5,6-dimethoxy-2-hydroxyimino-1-indanone | 0.27 moles, 6 g | COC=1C=C2CC(C(C2=CC1OC)=O)=NO | C11H11NO4
reactant | sulfuric acid | 3.3 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
catalyst | Pd/C | 1.5 g | [Pd] | Pd
product | 5.6-dimethoxy-2-indanylamine | COC=1C=C2CC(CC2=CC1OC)N | C11H15NO2
